US05580893
N-(2-Nitroxyethyl)-2-(2-nitrophenoxy)propanamide (Exemplified compound No. 18)
Following a similar treatment to that in Example 2 and using 0.75 g of 2-(2-nitrophenoxy)propionic acid and 0.6 g of 2-nitroxyethylamine nitrate, 0.45 g of the title compound was obtained as pale yellow needles (solvent for recrystallization; diisopropyl ether).

reactant | 2-(2-nitrophenoxy)propionic acid | 0.75 g | [N+](=O)([O-])C1=C(OC(C(=O)O)C)C=CC=C1 | C9H9NO5
reactant | 2-nitroxyethylamine nitrate | 0.6 g | [N+](=O)(O)[O-].O([N+](=O)[O-])CCN
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
product | N-(2-Nitroxyethyl)-2-(2-nitrophenoxy)propanamide | 0.45 g | O([N+](=O)[O-])CCNC(C(C)OC1=C(C=CC=C1)[N+](=O)[O-])=O | C11H13N3O7
